US07101902B2
N-isopropyl-N′-(tert-butoxycarbonyl)guanidine (17):
To the solution of isopropylguanidine (1.33 g, 13.17 mmol) in DMF (30 ml) was added in small portions at room temperature solution of di-tert-butyl dicarbonate (1.435 g, 6.584 mmol) in 40 ml of CHCl3 and the reaction mixture was stirred at room temperature overnight. After quenched with water (20 ml), the mixture was extracted with CHCl3 three times. The chloroform extracts were combined and washed with water (4×50 ml) and dried over Na2SO4. The solvent was evaporated to dryness under reduced pressure to afford the pure crude product as a colorless liquid (1.32 g, 6.58 mmol, 100%). The crude product was used for further reactions without purification. 1H NMR (300 MHz, CDCl3): δ 3.51 (m, J=6.3 Hz, 1H), 1.43 (s, 9H), 1.20(d, J=5.3 Hz, 6H); 13C NMR: δ 63.81, 160.49, 77.84, 43.16, 29.70, 22.88.

reactant | isopropylguanidine | 13.17 mmol, 1.33 g | C(C)(C)NC(=N)N | C4H11N3
reactant | di-tert-butyl dicarbonate | 6.584 mmol, 1.435 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | CHCl3 | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | N-isopropyl-N′-(tert-butoxycarbonyl)guanidine | 6.58 mmol, 1.32 g, 100% | C(C)(C)NC(=N)NC(=O)OC(C)(C)C | C9H19N3O2
